US07576215B2
4′-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-1,1′-BIPHENYL-4-CARBOXYLIC ACID
The title compound was prepared from [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone and 4′-formyl-biphenyl-4-carboxylic acid according to the procedure of Example 66. MS (ES) m/z 600.9.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 4′-formyl-biphenyl-4-carboxylic acid | C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C14H10O3
product | 4′-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-1,1′-BIPHENYL-4-CARBOXYLIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)C(F)(F)F | C37H25F3N2O3
